US07282588B2
Preparation of N,N-dimethyl-N′-[4-(1-methyl-4-{2-[2-(1-piperazinyl)-5-pyrimidinyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)phenyl]urea
To a solution of 1,1-dimethylethyl 4-(5-{4-[3-(4-{[(dimethylamino)carbonyl]amino}phenyl)-1-methyl-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}-2-pyrimidinyl)-1-piperazinecarboxylate (0.0883 mmol) in dichloromethane (20 ml) was added trifluoroacetic acid (1 ml) and the resulting solution stirred at room temperature for 4 hours. Concentration and purification by reverse-phase HPLC provided the title compound as a yellow solid (43%). ESMS [M+H]+: 523.2

reactant | 1,1-dimethylethyl 4-(5-{4-[3-(4-{[(dimethylamino)carbonyl]amino}phenyl)-1-methyl-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}-2-pyrimidinyl)-1-piperazinecarboxylate | 0.0883 mmol | CN(C(=O)NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC(=C2)C=2C=NC(=NC2)N2CCN(CC2)C(=O)OC(C)(C)C)C)C | C33H38N10O3
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N,N-dimethyl-N′-[4-(1-methyl-4-{2-[2-(1-piperazinyl)-5-pyrimidinyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)phenyl]urea | 43% | CN(C(=O)NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC(=C2)C=2C=NC(=NC2)N2CCNCC2)C)C | C28H30N10O
